US06132740
4-Cyclohexylresorcinol
Resorcinol (2.2 g, 20 mmol) and cyclohexanol (6.33 ml, 6 g, 60 mmol) were suspended in 85% polyphosphoric acid (8 ml). The mixture was heated to 125° C. for 24 hours, after which time TLC appeared to show complete consumption of the starting materials. On cooling the mixture was partitioned between water (50 ml) and diethyl ether (50 ml). The aqueous layer was discarded, and the organic portion extracted with sodium hydroxide solution (2×50 ml, 2M). The base extract was washed with ether (3×50 ml), and then acidified with aqueous hydrochloric acid (120 ml, 2M). The organic components were then extracted into diethyl ether (2×50 ml), dried (magnesium sulfate), filtered and the solvent removed under reduced pressure. The resulting brown oil was then chromatographed on silica gel, eluting with ethyl acetate/petroleum ether (bp 60-80° C.) 1:2 to give the desired product as an off-white solid (1.7 g, 44%).

reactant | Resorcinol | 20 mmol, 2.2 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | cyclohexanol | 60 mmol, 6.33 ml, 6 g | C1(CCCCC1)O | C6H12O
product | 4-Cyclohexylresorcinol | 1.7 g, 44% | C1(CCCCC1)C1=C(C=C(O)C=C1)O | C12H16O2
